US03980650
Under a nitrogen atmosphere 0.7 g. (0.10 g. at.) of lithium and 7.85 g. (0.05 mol) of bromobenzene are dissolved in 60 ml. of anhydrous diethyl ether. Over the course of about 20 minutes this solution is added to a solution of 5.9 g. of o-aminobenzonitrile in 60 ml. of anhydrous diethyl ether. After 10 minutes, 3.5 g. of dimethylcyanamide, dissolved in 20 ml. of anhydrous diethyl ether, are added and the reaction mixture is refluxed under the nitrogen atmosphere for 6 hours. The next day the mixture is decomposed by addition of water and the precipitate is filtered off. The product is crystallized from a mixture of ethanol and petroleum ether (boiling range 28°-40°C.). 6 g. of 4-amino-2-dimethylaminoquinazoline, m.p. 141°-142°C., are obtained.

reactant | lithium | 0.10 g | [Li] | Li
reactant | bromobenzene | 0.05 mol | BrC1=CC=CC=C1 | C6H5Br
reactant | o-aminobenzonitrile | NC1=C(C#N)C=CC=C1 | C7H6N2
reactant | dimethylcyanamide | CN(C#N)C | C3H6N2
solvent | water | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-amino-2-dimethylaminoquinazoline | NC1=NC(=NC2=CC=CC=C12)N(C)C | C10H12N4
